US09102623B2
A1.3) 2-Oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylic acid
At room temperature, 4.73 g (21.4 mmol) of methyl 2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylate were dissolved in 45 ml of methanol and 15 ml of water, 1.80 g (42.8 mmol) of lithium hydroxide monohydrate were added and the mixture was then heated under reflux for 2 h. The mixture was concentrated to about 15 ml and then washed with dichloromethane and the aqueous phase was adjusted to pH 2 by addition of 2N hydrochloric acid. The mixture was again extracted with dichloromethane, and the organic phase was dried and concentrated. This gave 4.2 g (94% of theory) of a colorless powder.

reactant | methyl 2-oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylate | 21.4 mmol, 4.73 g | O=C1NC(=CC=C1C(=O)OC)C(F)(F)F | C8H6F3NO3
reactant | lithium hydroxide monohydrate | 42.8 mmol, 1.80 g | O.[OH-].[Li+]
solvent | methanol | 45 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
product | 2-Oxo-6-(trifluoromethyl)-1,2-dihydropyridine-3-carboxylic acid | O=C1NC(=CC=C1C(=O)O)C(F)(F)F | C7H4F3NO3
